US07655801B2
(a) Heptyl-carbamic acid 1-benzyl-1,2,3,4tetrahydro-quinolin-6-yl ester (2 g)
Mixture of 1-benzyl-1, 2, 3, 4-tetrahydro-quinolin-6-ol (0.239 g., 1 mmol), heptyl isocyanate (0.169 g., 1.2 mmol) and pyridine (1 ml) in dry tetrahydrofuran (10 ml), was heated with stirring at 65° C. for 48 hours. Reaction mixture was quenched with water (1 ml) and concentrated under vaccum. The separated solid was washed with water (2×5 ml) and crystallised with ether to give (2 g) as oil; yield: 0.200 g. (52.6%), C24H32N2O2; 1H NMR δ ppm (CDCl3): 0.86 (bs, 3H), 1.20-1.29 (m, 6H), 1.55-1.58 (m, 4H), 1.96-2.06 (m, 2H), 2.79 (t, 2H), 3.17-3.36 (m, 4H), 4.44 (st, 2H), 4.87 (bs, 1H), 6.39-6.44 (m, 1H4), 6.71-6.75 (m, 2M), 7.25-7.34 (m, 5H); IR vmax (Neat) (cm−1): 757, 902, 1.70, 1160, 1199, 1228, 1348, 1458, 1502, 1618, 1718, 2362, 2857, 2928, 3028, 3342, 3854; MS: m/z=380 (M+).

reactant | 1-benzyl-1, 2, 3, 4-tetrahydro-quinolin-6-ol | 1 mmol, 0.239 g | C(C1=CC=CC=C1)N1CCCC2=CC(=CC=C12)O | C16H17NO
reactant | heptyl isocyanate | 1.2 mmol, 0.169 g | C(CCCCCC)N=C=O | C8H15NO
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Heptyl-carbamic acid 1-benzyl-1,2,3,4tetrahydro-quinolin-6-yl ester | C(C1=CC=CC=C1)N1CCCC2=CC(=CC=C12)OC(NCCCCCCC)=O | C24H32N2O2
